US04369312
In dimethylformamide (5 ml) are dissolved 2,2,2-trichloroethyl 3-methyl-7-oxo-3-cephem-4-carboxylate (691 mg) and hydroxylamine hydrochloride (139 mg), followed by addition of pyridine (162 μl) and methylene chloride (10 ml). The mixture is refluxed in a Dean-Stark trap packed with Molecular Sieve 3A for 45 minutes. The reaction mixture is concentrated under reduced pressure and the residue is dissolved in ethyl acetate. The resultant solution is washed with water and aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residual oil is subjected to silica gel (20 g) column chromatography and elution is carried out with 5-13% ethyl acetatehexane to give 2,2,2-trichloroethyl 7-hydroxyimino-3-methyl-3-cephem-4-carboxylate as an oil (570 mg).

reactant | 2,2,2-trichloroethyl 3-methyl-7-oxo-3-cephem-4-carboxylate | 691 mg | CC=1CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2=O)=O | C10H8Cl3NO4S
reactant | hydroxylamine hydrochloride | 139 mg | Cl.NO
reactant | pyridine | 162 μl | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2,2,2-trichloroethyl 7-hydroxyimino-3-methyl-3-cephem-4-carboxylate | 570 mg | ON=C1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H9Cl3N2O4S
